Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[C@@:4]2([O:5][H:14])[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]2[C:6]([H:15])([H:16])[C@@:7]12[H:17])([H:8])([H:9])[H:10].[O:5]([H:13])[H:14],85.9140476781523
[N:1]1([H:9])[C:2][C@@:3]2([H:7])[C@:4]1([H:8])[C:5]([H:10])([H:11])[O:6]2>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,47.62535264544461
[N:1]1([H:8])[C:2]([H:9])([H:13])[O:3][C:4]([H:10])([H:11])[C@:5]1([C:6]#[N:7])[H:12]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],74.1835735428361
[C:1]([C:2]#[C:3]/[C:4](=[C:5](/[O:6][H:12])[C:7]([H:13])([H:14])[H:15])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],46.11970964945717
[C-:2](=[O+:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])[H:10].[C:1]([H:7])([H:8])([H:9])[H:11]>>[C:1]([C:2]([O:3][C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],15.780291075479404
[O:1]([C:2]([C:5]([C:3]#[O+:4])=[C-:6][H:10])([H:8])[H:9])[H:7]>>[O:1]([C:2]([C:3](=[O:4])[C:5]#[C:6][H:10])([H:8])[H:9])[H:7],29.57285695497819
[O:1]=[C:2]([N:3]([C:4]([C@@:5]1([H:11])[O+:6]=[C-:7]1)([H:9])[H:10])[H:8])[H:12]>>[O:1]=[C:2]1[N:3]([H:8])[C:4]([H:9])([H:10])[C@@:5]2([H:11])[O:6][C@@:7]12[H:12],15.863843911906393
[C-:2]([C:3]([C:4]([O:5][H:14])=[C:6]=[C+:7][H:15])([H:11])[H:12])([H:9])[H:10].[O:1]([H:8])[H:13]>>[O:1]([C:2]([C:3]([C@@:4]([O:5][H:14])([C:6]#[C:7][H:15])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],13.272979950514198
[C:1]([C:2]([O:6][C:5](=[O+:4][C-:3]([H:13])[H:14])[N:7]([H:15])[H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],9.676720879508196
[C:1]([C:2]#[C:3][C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3])[C:4]([C:5](=[O:6])[C:7]([H:13])([H:14])[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],55.9186129325062
[C:1]1([H:8])([H:9])[C@@:2](/[C:7](=[C:6](\[C:4](=[O:5])[H:10])[H:12])[H:13])([H:11])[O:3]1>>[C:1]([C@@:2]1([H:11])[O:3][C:4](=[O:5])[C:6]([H:12])=[C:7]1[H:13])([H:8])([H:9])[H:10],56.79707574527189
[O:1]=[C:2]=[C:3]=[C:4]=[C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([C:3]#[C:4][C:5]#[C:6][H:8])[H:7],70.4888812679463
[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8]>>[N:3](=[N+:4]=[N-:5])[H:7].[O:1]=[C:2]=[N:6][H:8],36.209435617485106
[C:1]([C:2]([C:3](=[O:4])[N:5]([C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]=[O:4])([H:10])[H:11])([H:7])([H:8])[H:9].[N:5]([C:6]([H:13])[H:14])([H:12])[H:15],92.64351027882549
[H:8][H:13].[N:1]#[C:2][O:3][C:4]([C:5]1=[N:7][C:6]1([H:11])[H:12])([H:9])[H:10]>>[N:1](=[C:2]1\[O:3][C:4]([H:9])([H:10])[C@@:5]12[C:6]([H:11])([H:12])[N:7]2[H:13])\[H:8],41.005855492612596
[O:1]([C:2]([C:3](=[O:4])[C:5]#[N:6])([H:8])[H:9])[H:7]>>[O:1]([C+:2]([C:3](=[O:4])[C:5](=[N-:6])[H:9])[H:8])[H:7],53.1586362831415
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]1([H:17])[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7]1)([H:8])([H:9])[H:10],86.6718587033699
[C:1]([C:2]([C:3]([O:4][C:5](=[O:6])[N:7]([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]1([H:8])([H:9])[C:2]([H:11])([H:12])[C:3]1([H:10])[H:13].[O:4]=[C:5]([O:6][H:14])[N:7]([H:15])[H:16],76.78934007519891
[C:1]1([H:7])([H:8])[C:2]([H:9])([H:10])[C:3]1([N:4]1[C:5]([H:12])([H:13])[C:6]1([H:14])[H:15])[H:11]>>[C+:1]([C:2]([C@:3]1([H:11])[N-:4][C:6]([H:14])([H:15])[C:5]1([H:12])[H:13])([H:9])[H:10])([H:7])[H:8],82.3774725952391
[N:1]([C:2]1=[C:4]=[C:5]1[C:6]#[N+:7][O-:3])([H:8])[H:9]>>[N:1]([C:2](=[O:3])[C:4]#[C:5][C:6]#[N:7])([H:8])[H:9],57.5385284763768
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([C:2](=[O:3])[C:6]#[N:7])([H:8])([H:9])[H:10].[C:4]([N:5]([H:11])[H:15])([H:12])([H:13])[H:14],74.3076795773442
[C:1]([N:2]([C:3](=[O:4])[C:5](=[C:6])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([C:3](=[O:4])[C:5]#[C:6][H:11])[H:10])([H:7])([H:8])[H:9],0.7444857991212075
[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1>>[N-:1]=[C:2]=[C+:3][C:4]([C:5]([O:6][H:7])([H:10])[H:11])([H:8])[H:9],60.5849464686925
[C:1]([C:2]([C:5](=[O:6])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[C:3](=[C:4]([H:14])[H:15])([H:12])[H:13]>>[C:1]([C:2]([C:3]([C:4]([C:5](=[O:6])[H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],65.337622121712
[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3][C:4]([N:5]([C:6](=[O:7])[H:14])[H:13])([H:11])[H:12])([H:9])[H:10])[H:8],72.0507699844343
